US04859797
C6F13C2H4SC2H4S(C2H4O)3H
By proceeding in the same manner, C6F13C2H4S(C2H4O)3H is prepared from C6F13C2H4SC2H4OC2H4SH and Cl(C2H4O)3H.

reactant | C6F13C2H4S(C2H4O)3H | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)CCSCCOCCOCCO | C14H17F13O3S
reactant | C6F13C2H4SC2H4OC2H4SH | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)CCSCCOCCS | C12H13F13OS2
reactant | Cl(C2H4O)3H | ClCCOCCOCCO | C6H13ClO3
product | C6F13C2H4SC2H4S(C2H4O)3H | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)CCSCCSCCOCCOCCO | C16H21F13O3S2
